US04002640
The 1-acetamido-4-benzyloxy-2-nitrobenzene so produced is treated with sodium hydroxide in methanol, warmed briefly on a steam bath for about 15 minutes until the reaction is complete, diluted with water and extracted with dichloromethane to give 1-amino-4-benzyloxy-2-nitrobenzene.

reactant | 1-acetamido-4-benzyloxy-2-nitrobenzene | C(C)(=O)NC1=C(C=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C15H14N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-amino-4-benzyloxy-2-nitrobenzene | NC1=C(C=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C13H12N2O3
